Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
stroke
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Stroke
  
HPI: ___ is an ___ year-old woman with PMH of Alzheimer's
disease, Afib, CAD, HTN and DM who presented with left sided
weakness and eyes deviation to the right side. Last night 
patient
presented transient left sided weakness. The home assistant
contact the doctor who advice for neuro checks. This morning
patient was last seen in her usual state of health at 11am, and
when she was seen again around 4:45pm, she was noted to have
right eye deviation and left sided hemiparesis. 911 was 
contacted
and patient arrived to ___ in code stroke.
  
ROS:  
No history for recent fever or chills. Denied cough, shortness 
of
breath. Denied chest pain or tightness, palpitations. Denied
nausea, vomiting, diarrhea, constipation or abdominal pain. No
recent change in bowel or bladder habits. No dysuria. 

 
Past Medical History:
1. Alzheimer's Disease  
2. Coronary artery disease  
3. Hypertension  
4. Diabetes  
5. Atrial fibrillation  
 
Social History:
___
Family History:
None stated
 
Physical Exam:
General: Awake, NAD.  
HEENT: mucous membrane is moist  
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity  

Pulmonary: Lungs CTA bilaterally without R/R/W  
Cardiac: irregular rhythm, nl. S1S2, no M/R/G noted  
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.  
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.  
Neurologic:  
-Mental Status: Dysarthric speech. Able to follow both midline
and appendicular commands. Clear evidence of apraxia and 
neglect.

CN  
I: not tested  
II,III: left visual field cut, pupils 4mm->2mm bilaterally, 
III,IV,VI: eyes deviation to the right side, not crossing
midline, no ptosis. No nystagmus  
V: not tested
VII: left facial weakness
VIII: mot tested
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria  
Motor: mild increased tone in the left arm. Dense left
hemiplegia.  
Delt Bi Tri WE FE Grip IO  
C5 C6 C7 C6 C7 C8/T1 T1  
L 0 0 0 0 0 0 0  
R ___ 5  
 
IP Quad ___ PF  
L2 L3 L4-S1 L4 L5 S1/S2  
L ___  
R ___  

-Sensory: No clear deficits to light touch. 
 
-Gait: not tested.  

 
Pertinent Results:
___ 05:35AM BLOOD WBC-7.8 RBC-4.20 Hgb-12.3 Hct-37.8 MCV-90 
MCH-29.2 MCHC-32.4 RDW-16.9* Plt ___
___ 05:30AM BLOOD WBC-10.2 RBC-4.74 Hgb-13.6 Hct-42.0 
MCV-89 MCH-28.6 MCHC-32.3 RDW-16.3* Plt ___
___ 09:00AM BLOOD Neuts-72.9* ___ Monos-4.5 Eos-2.3 
Baso-0.4
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD ___ PTT-61.8* ___
___ 05:35AM BLOOD Glucose-120* UreaN-13 Creat-0.8 Na-141 
K-3.4 Cl-108 HCO3-22 AnGap-14
___ 05:30AM BLOOD Glucose-123* UreaN-12 Creat-0.7 Na-141 
K-3.2* Cl-104 HCO3-24 AnGap-16
___ 09:00AM BLOOD ALT-21 AST-34 CK(CPK)-326* AlkPhos-88 
TotBili-0.4
___ 05:30PM BLOOD cTropnT-<0.01
___ 05:35AM BLOOD Calcium-8.4 Mg-1.9
___ 09:00AM BLOOD %HbA1c-6.6* eAG-143*
___ 09:00AM BLOOD Triglyc-87 HDL-67 CHOL/HD-2.6 LDLcalc-92
___ 09:00AM BLOOD TSH-2.6

LAST INR 1.2

Imaging:

CTA/P:
CTA OF THE HEAD AND NECK: There is abrupt cutoff of the mid M1 
segment of the 
right middle cerebral artery. Distal branches are decreased in 
number but are 
still seen, and may reflect some pial collateral flow. In 
addition there is a 
filling defect at the takeoff of the right posterior 
communicating artery, but 
the posterior communicating artery remains well opacified. 
  
There is atherosclerotic calcification with small ulcerating 
plaques along the 
aortic arch. The great vessels are free of hemodynamically 
significant 
stenosis as they arise off of the arch. The origin of the right 
common 
carotid artery and the course of the right common carotid artery 
are 
unremarkable without hemodynamically significant stenosis, 
occlusion, 
aneurysm. At the level of the right carotid bulb there is some 
atherosclerotic calcification that does not appear to be 
hemodynamically 
significant. The right internal carotid artery is normal in 
caliber and 
demonstrates no hemodynamically significant stenosis, occlusion 
or aneurysm.  
There is calcification of the cavernous right internal carotid 
artery. 
  
The left common and internal carotid arteries are normal in 
caliber without 
hemodynamically significant stenosis, occlusion or aneurysm. 
There is mild 
atherosclerotic calcification at the left carotid bulb. 
  
The left vertebral artery is normal in caliber throughout its 
course without 
hemodynamically significant stenosis, occlusion, or aneurysm. 
The right 
vertebral artery also appears unremarkable. 
  
Apart from the thrombus described above, the remainder of the 
intracranial 
vessels of the anterior and the posterior circulation are normal 
in caliber 
and opacify normally and are free of hemodynamically significant 
stenosis or 
aneurysm. 
  
There is no cervical lymphadenopathy. There may be a small 
subcentimeter 
thyroid hypodensity in the right lobe, in an area which is 
somewhat obscured 
by artifacts. The salivary gland appears unremarkable. The 
nasopharynx, 
oropharynx, hypopharynx and larynx are symmetric. Within the 
lung apices 
along the right major fissure there is a 7-mm nodular opacity 
(5:31).  
Incompletely imaged are median sternotomy wires and clips in the 
upper 
mediastinum likely from prior CABG. The patient is edentulous. 
The paranasal 
sinuses are clear. There are bilateral frontal sinus osteomas. 
  
In the right breast there is a 2.2 x 1.6-cm mass. There may be 
associated 
skin thickening. There appears to be an enlarged axillary lymph 
node which is 
incompletely imaged but at least measures 2.3 x 1.6 cm. 
  
CT PERFUSION: There is an increase in the mean transit time in 
the area of 
the right middle cerebral artery territory. The cerebral blood 
volume appears 
more focally low along the anterior sylvian fissure and 
anterolateral right 
frontal lobe, and the areas of new hypodensity seen on CT. This 
suggests a 
large penumbra around an infarct core. 
  
At the bifurcation of the left middle cerebral artery there 
appears to be an 
appearance of an outpouching on the coronal (601b:18), but on 
the axials there 
are some tortuous vessels in this region, which may explain the 
finding. 
  
IMPRESSION: 
1. Abrupt cutoff of the right middle cerebral artery, mid M1 
segment and 
non-occlusive thrombus at the origin of the right posterior 
communicating 
artery. Associated ischemia involving the right MCA territory 
diffusely with 
infarcts in the more anterior right MCA distribution as 
described above, 
suggesting a large penumbra. 
2. Spiculated right breast mass with one partially imaged 
enlarged right 
axillary lymph node. Correlation with mammogram and further 
workup is needed, 
if not already performed elsewhere. 
3. Atherosclerotic change of the cervical vessels as described 
above without 
hemodynamically significant stenosis. 
4. Extensive underlying small vessel ischemic disease and 
chronic infarct 
involving the right basal ganglia. Stable enlarged ventricles 
likely reflect 
atrophy. 

 
Brief Hospital Course:
The patient was admitted to the neurology service as a "code 
stroke" for evaluation of left-sided weakness. On examination, 
pulse was irregular.  She had a right hemispheric syndrome with 
eye deviation to the right and complete right hemiplegia.  Her 
Coumadin was recently discontinued and that she was last seen in 
her USOH at ~ 11:00 AM, i.e. > 6 hours and she appear by history 
to have had an episodes of transient weakness the night before.  
A stat head CT, CTP, and CTA showed an old right frontal 
subcortical hypo density and a new cortical area of hypodensity 
(not seen in ___ in its vicinity in right MCA territory on 
plain CT and a
hyperdense right MCA sign. CTA showed embolic cutoff of the 
right MCA. CTP showed a large right hemispheric area of 
prolonged MTT and an area of decreased blood volume in the right 
frontal region corresponding to the CT hypodensity.  She was 
presumed to have an embolic infarct secondary to her a.fib. She 
was not a candidate for tPA.

She was admitted to the neuro ICU for close observation.  While 
in the unit she was started on a heparin drip for her a.fib.  
She also initially failed her swallow evaluation and an NGT was 
placed and she was started on tube feeds.  There was discussion 
about goal of care and it was determined that the patient was 
DNR/ DNI and would not want a PEG feeding tube even if she 
required it for additional nutrition.  The patient remained 
stable in the ICU and was transferred out to the floor.

-Neuro
-On the floor the patient did well and passed her speech and 
swallow evaluation.  She was able to take meds by mouth.  She 
was started on Coumadin and her heparin drip was replaced with 
Lovenox injections.  She will need to continue on the Lovenox 
until she reaches an therapeutic INR of ___
-she will follow up with Dr. ___ as an outpatient.

ID
- on admission the patient had a UA showing 50 WBC and she was 
placed on ceftriaxone for a total of 6 days.  she grew out 
e.coli and which was sensitive to Cipro

CV
- the patient will remain on her atenolol for rate control, she 
was not restarted back on her diltiazem but this can be added 
back if she is tachycardic and she needs increased rate control
- her BP were controlled with atenolol but this can be titrate 
up if needed
- her Lasix (which she got for ___ edema was held) but this may 
be restarted if she develops ___ edema.

___
- the patient was seen by ___, she may continue to work with ___ 
as she tolerates

 
Medications on Admission:
1. Diltiazem HCl 180 mg Capsule, Sustained Release PO DAILY
(Daily).  
2. Nystatin 100,000 unit/g Powder Sig: One (1) application 
Topical once a day.  
3. Aspirin 81 mg Tablet PO DAILY 
4. Senna 8.6 mg Tablet PO BID 
5. Calcium Carbonate 500 mg Tablet PO TID 
6. Actos 15 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Ditropan XL 5 mg Tab,Sust Rel Osmotic Push 24hr Sig: ___ 
Tab,Sust Rel Osmotic Push 24hr PO twice a day.  
8. Memantine 5 mg Tablet Sig: One (1) Tablet PO bid ().  
9. Remeron 15 mg Tablet Sig: One (1) Tablet PO at bedtime.  
10. Wellbutrin SR 100 mg Tablet Sustained Release PO once a day. 


11. Simvastatin 20 mg Tablet PO once a day.  
12. Atenolol 50 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Furosemide 20 mg Tablet Sig: One (1) Tablet PO ___, 
___.  
14. Vitamin D 50,000 unit Capsule Sig: One (1) Capsule PO once a 

week.  
15. Tylenol ___ mg Tablet Sig: ___ Tablets PO four times a day 
as needed for pain. 

 
Discharge Medications:
1. Enoxaparin 80 mg/0.8 mL Syringe Sig: One (1)  Subcutaneous 
Q12 (): 70mg SC q12 until INR is between ___ on coumadin.  
2. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
3. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___: for INR of ___.  
4. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain, fever.  
6. Bupropion HCl 100 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
7. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. Vitamin D 50,000 unit Capsule Sig: One (1) Capsule PO once a 
week.  
12. Memantine 5 mg Tablet Sig: One (1) Tablet PO twice a day.  
13. Actos 15 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Right MCA infarct

 
Discharge Condition:
awake, perseverative, inattentive, alertness waxes and wanes.  
follow simple midline and appendicular commands, cannot do 2 
step or more complex commands
CN: left field cut, eyes move in all directions although prefer 
right, other nerves intact
Motor: increased tone on the left, she has dense left 
hemiparesis
___: no obvious deficits

 
Discharge Instructions:
You were admitted with left sided weakness and eye deviation to 
the right.  You were ound to have a sizable right MCA stroke.  
You were on coumadin for your a.fib but had a subtherapeutic 
level.  You had a brief say in the ICU.  You had an feding tube 
placed in your nose initially.  You were cleared by speech and 
swallow to have a dysphagia diet.  We discussed options with our 
family should you not take in enough food but they have decided 
not to pursue a PEG feeding tube.  You are being discharged back 
to your skilled nursing facility

Please take all medications as prescribed. Please make all 
follow up appointments.  If you have any worsening of your 
symptoms or any of the symptoms listed below call your doctor or 
return to the nearest emergency room.
 
Followup Instructions:
___